datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11](=[C:12]([H:18])[H:19])[C:13](=[C:14]([H:21])[H:22])[H:20])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:12]([C:11]([C:10](=[C:9]([H:15])[H:16])[H:17])[C:13](=[C:14]([H:21])[H:22])[H:20])([H:18])[H:19])[H:4],18.6606
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[O:8][O:9]>>[C:0]([O:1][C:2]=[O:3])([H:4])([H:5])[H:6].[H:7][O:8][O:9],207.9448
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:30]([H:31])([H:32])[H:33]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:20][C:30]([H:31])([H:32])[H:33],46.697624
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])[H:9])[H:8])([H:6])[H:7].[C:14]([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])([H:9])[C:14]([H:15])([H:16])[H:17])[H:8])([H:6])[H:7],16.5686
[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0]([O:1][C:2]([C:3]([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[H:8][C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14],43.5136
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:4])([H:5])[H:6].[C:10]([H:11])([H:12])[H:13]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:5])[H:6].[H:4][C:10]([H:11])([H:12])[H:13],40.936256
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16]#[C:17][C:18]([H:22])([H:23])[H:24])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[C:16]([C:15]([H:19])([H:20])[H:21])=[C:17][C:18]([H:22])([H:23])[H:24])[H:8])([H:6])[H:7],83.1779
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([H:22])[H:23])[H:21])=[C:9]([C:10]([H:25])([H:26])[H:27])[H:24])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([C:7](=[C:8]([H:22])[H:23])[H:21])[C:9]1([C:10]([H:25])([H:26])[H:27])[H:24])[H:13])([H:11])[H:12],55.9401
[S:0]=[C:1]([S:2][H:4])[H:3].[S:5]=[C:6]([C:7]([S:8][H:11])[H:10])[H:9]>>[H:4][C:7]([C:6](=[S:5])[H:9])([S:8][H:11])[H:10].[S:0]=[C:1]([S:2])[H:3],60.2496
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[O:12][O:13][H:14]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([C:3]([H:9])([H:10])[H:11])[O:12][O:13])([H:4])([H:5])[H:14],18.150192
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16]([C:17]([H:28])([H:29])[H:30])=[C:18]([c:19]1[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]([H:35])[c:24]1[H:36])[H:31])([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[C:16]([C:15]([H:25])([H:26])[H:27])([C:17]([H:28])([H:29])[H:30])[C:18]([c:19]1[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]([H:35])[c:24]1[H:36])[H:31])[H:8])([H:6])[H:7],72.5506
[C:0]([C:1]([O:2][H:7])[H:6])([H:3])([H:4])[H:5].[O:8][O:9]>>[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[H:7][O:8][O:9],6.865944
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])([H:32])[H:33])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:11])([H:12])[H:13].[C:34]([H:35])([H:36])[H:37]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])([H:32])[H:33])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:12])[H:13].[H:11][C:34]([H:35])([H:36])[H:37],0.0
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([C:8]([H:18])([H:19])[H:20])[C:9](=[C:10]([H:22])[H:23])[H:21])[H:17])([H:15])[H:16])[H:14])[H:13])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])=[C:4]([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])[C:7]1([C:8]([H:18])([H:19])[H:20])[C:9](=[C:10]([H:22])[H:23])[H:21])[H:11],129.788
[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([C:5]([H:13])([H:14])[H:15])[c:6]([H:16])[c:7]1[H:17])([H:8])([H:9])[H:10].[C:18]([H:19])([H:20])[H:21]>>[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([C:5]([H:13])([H:14])[H:15])[c:6]([H:16])[c:7]1[H:17])([H:9])[H:10].[H:8][C:18]([H:19])([H:20])[H:21],93.119104
[C:0]([C:1](=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6]>>[C:0]1([H:5])([H:6])[C:1]([H:7])[C:2]1([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8],225.936
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[S:9]([H:10])[H:11]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:10])[H:4].[S:9][H:11],22.1752
